* Capacitor SPICE subcircuit
* Series RLC model capturing parasitic ESR and ESL
*
* Equivalent circuit:
*
*   1 ── ESL ── ESR ── C ── 2
*
* Behavior:
*   f < SRF:  Impedance dominated by C (capacitive, |Z| falls with f)
*   f = SRF:  Impedance minimum at ESR (series resonance of C and ESL)
*   f > SRF:  Impedance dominated by ESL (inductive, |Z| rises with f)
*
* Parameters:
*   CVAL - Capacitance value in farads
*   ESR  - Equivalent series resistance (ohms)
*   ESL  - Equivalent series inductance (henries)

.SUBCKT C 1 2 PARAMS: CVAL=100n ESR=10m ESL=500p
L_esl 1 mid1 {ESL}
R_esr mid1 mid2 {ESR}
C1 mid2 2 {CVAL}
.ENDS C
