* Ferrite Bead SPICE subcircuit
* RLC model capturing frequency-dependent impedance
*
* Equivalent circuit:
*
*              ┌── L ──┐
*   1 ── Rdc ──┤       ├── 2
*              ├─ Rac ─┤
*              └─ Cp ──┘
*
* Behavior:
*   DC:       Z ≈ Rdc (nearly transparent)
*   f_rated:  Z peaks ≈ Rac (rated impedance)
*   f >> f_r: Cp dominates, Z drops
*
* Parameters:
*   RDC - DC resistance (ohms)
*   L   - Equivalent inductance (henries)
*   RAC - AC resistance at resonance (ohms)
*   CP  - Parasitic parallel capacitance (farads)

.SUBCKT FB 1 2 PARAMS: RDC=0.3 L=350n RAC=220 CP=7.2p
R_dc 1 mid {RDC}
L1 mid 2 {L}
R_ac mid 2 {RAC}
C_p mid 2 {CP}
.ENDS FB
