* Inductor SPICE subcircuit
* Model with DC resistance and parasitic parallel capacitance
*
* Equivalent circuit:
*
*              ┌─── Cp ───┐
*   1 ── Rdc ──┤          ├── 2
*              └─── L ────┘
*
* Behavior:
*   DC:       Z ≈ Rdc (small winding resistance)
*   f < SRF:  Z dominated by L (inductive, |Z| rises with f)
*   f = SRF:  Parallel resonance of L and Cp, impedance peaks
*   f > SRF:  Z dominated by Cp (capacitive, |Z| falls with f)
*
* Parameters:
*   LVAL - Inductance value in henries
*   RDC  - DC winding resistance (ohms)
*   CP   - Parasitic parallel capacitance (farads)

.SUBCKT L 1 2 PARAMS: LVAL=1u RDC=0.1 CP=0.5p
R_dc 1 mid {RDC}
L1 mid 2 {LVAL}
C_p mid 2 {CP}
.ENDS L
