* NetTie SPICE subcircuit
* Zero resistance connection between pins
*
* Parameters:
*   RVAL - Resistance value (default: 1m ohm for near-zero resistance)
*
* Nodes:
*   1 - Terminal 1 
*   2 - Terminal 2
*   3 - Terminal 3 (optional)
*   4 - Terminal 4 (optional)

.SUBCKT NetTie_2 1 2 PARAMS: RVAL=1m
R1 1 2 {RVAL}
.ENDS NetTie_2

.SUBCKT NetTie_3 1 2 3 PARAMS: RVAL=1m
R1 1 2 {RVAL}
R2 2 3 {RVAL}
.ENDS NetTie_3

.SUBCKT NetTie_4 1 2 3 4 PARAMS: RVAL=1m
R1 1 2 {RVAL}
R2 2 3 {RVAL}
R3 3 4 {RVAL}
.ENDS NetTie_4
