* Thermistor SPICE subcircuit
* Fixed-resistance model at nominal temperature with HF parasitics
*
* Equivalent circuit:
*
*              ┌── Cp ──┐
*   1 ── ESL ──┤        ├── 2
*              └── R ───┘
*
* Parameters:
*   RVAL - Resistance value in ohms (at 25C)
*   ESL  - Parasitic series inductance (henries)
*   CP   - Parasitic parallel capacitance (farads)

.SUBCKT TH 1 2 PARAMS: RVAL=10000 ESL=0.5n CP=0.05p
L_esl 1 mid {ESL}
R1 mid 2 {RVAL}
C_p mid 2 {CP}
.ENDS TH
