* TVS Diode SPICE subcircuit
* Generic TVS diode model using back-to-back zener approach
*
* Parameters:
*   BV - Breakdown/clamping voltage
*   IBV - Breakdown current
*   IS - Saturation current
*   RS - Series resistance
*
* Nodes:
*   1 - Anode
*   2 - Cathode

* Unidirectional TVS - behaves like a zener diode
.SUBCKT TVS_Uni 1 2 PARAMS: BV=6.4 IBV=10m IS=1e-14 RS=5m
D1 1 2 TVS_UNI_MODEL
.MODEL TVS_UNI_MODEL D(IS={IS} RS={RS} BV={BV} IBV={IBV})
.ENDS TVS_Uni

* Bidirectional TVS - two anti-series zeners
.SUBCKT TVS_Bi 1 2 PARAMS: BV=6.4 IBV=10m IS=1e-14 RS=5m
D1 1 mid TVS_BI_MODEL
D2 2 mid TVS_BI_MODEL
.MODEL TVS_BI_MODEL D(IS={IS} RS={RS} BV={BV} IBV={IBV})
.ENDS TVS_Bi
