* Ideal passive component SPICE subcircuits (no parasitics)

.SUBCKT IDEAL_C 1 2 PARAMS: CVAL=100n
C1 1 2 {CVAL}
.ENDS IDEAL_C

.SUBCKT IDEAL_R 1 2 PARAMS: RVAL=1k
R1 1 2 {RVAL}
.ENDS IDEAL_R

.SUBCKT IDEAL_L 1 2 PARAMS: LVAL=1u
L1 1 2 {LVAL}
.ENDS IDEAL_L
