* BJT SPICE subcircuit
* Generic bipolar junction transistor model
*
* Parameters:
*   BF - Forward current gain (hFE)
*   IS - Saturation current
*   NF - Forward emission coefficient
*   VAF - Forward Early voltage
*   RB - Base resistance
*   RC - Collector resistance
*   RE - Emitter resistance
*   CJE - B-E junction capacitance
*   CJC - B-C junction capacitance
*
* Nodes:
*   1 - Base
*   2 - Collector
*   3 - Emitter

* NPN transistor
.SUBCKT NPN 1 2 3 PARAMS: BF=100 IS=1e-14 NF=1.0 VAF=100 RB=10 RC=1 RE=0.5 CJE=2p CJC=1p
Q1 2 1 3 NPN_MODEL
.MODEL NPN_MODEL NPN(BF={BF} IS={IS} NF={NF} VAF={VAF} RB={RB} RC={RC} RE={RE} CJE={CJE} CJC={CJC})
.ENDS NPN

* PNP transistor
.SUBCKT PNP 1 2 3 PARAMS: BF=100 IS=1e-14 NF=1.0 VAF=100 RB=10 RC=1 RE=0.5 CJE=2p CJC=1p
Q1 2 1 3 PNP_MODEL
.MODEL PNP_MODEL PNP(BF={BF} IS={IS} NF={NF} VAF={VAF} RB={RB} RC={RC} RE={RE} CJE={CJE} CJC={CJC})
.ENDS PNP
