* Diode SPICE subcircuit
* Generic diode model with proper SPICE parameters
*
* Parameters:
*   IS - Saturation current (controls forward voltage)
*   N - Ideality factor (1.0 for ideal diode, higher for real diodes)
*   RS - Series resistance
*   CJO - Junction capacitance (optional)
*
* Nodes:
*   1 - Anode
*   2 - Cathode

* Standard silicon diode - ~0.7V forward voltage
.SUBCKT D 1 2 PARAMS: IS=1e-14 N=1.0 RS=10m CJO=1p
D1 1 2 DMODEL
.MODEL DMODEL D(IS={IS} N={N} RS={RS} CJO={CJO})
.ENDS D

* Schottky diode variant - ~0.3V forward voltage, higher leakage
.SUBCKT D_Schottky 1 2 PARAMS: IS=1e-8 N=1.2 RS=5m CJO=2p
D1 1 2 SCHOTTKY_MODEL
.MODEL SCHOTTKY_MODEL D(IS={IS} N={N} RS={RS} CJO={CJO})
.ENDS D_Schottky

* Zener diode variant - includes breakdown behavior
.SUBCKT D_Zener 1 2 PARAMS: IS=1e-14 N=1.0 RS=10m BV=5.1 IBV=5m CJO=1p
D1 1 2 ZENER_MODEL
.MODEL ZENER_MODEL D(IS={IS} N={N} RS={RS} BV={BV} IBV={IBV} CJO={CJO})
.ENDS D_Zener
