* MOSFET SPICE subcircuit
* Generic MOSFET model
*
* Parameters:
*   VTH - Threshold voltage
*   KP - Transconductance parameter
*   RD - Drain resistance
*   RS - Source resistance
*   CBD - Drain-bulk capacitance
*   CBS - Source-bulk capacitance
*   LAMBDA - Channel-length modulation
*
* Nodes:
*   1 - Gate
*   2 - Drain
*   3 - Source

* N-Channel MOSFET
.SUBCKT NMOS 1 2 3 PARAMS: VTH=1.5 KP=120u RD=0.5 RS=0.5 CBD=5p CBS=5p LAMBDA=0.01
M1 2 1 3 3 NMOS_MODEL
.MODEL NMOS_MODEL NMOS(VTO={VTH} KP={KP} RD={RD} RS={RS} CBD={CBD} CBS={CBS} LAMBDA={LAMBDA})
.ENDS NMOS

* P-Channel MOSFET
.SUBCKT PMOS 1 2 3 PARAMS: VTH=-1.5 KP=60u RD=0.5 RS=0.5 CBD=5p CBS=5p LAMBDA=0.01
M1 2 1 3 3 PMOS_MODEL
.MODEL PMOS_MODEL PMOS(VTO={VTH} KP={KP} RD={RD} RS={RS} CBD={CBD} CBS={CBS} LAMBDA={LAMBDA})
.ENDS PMOS
