* Resistor SPICE subcircuit
* Model with parasitic series inductance and parallel capacitance
*
* Equivalent circuit:
*
*              ┌── Cp ──┐
*   1 ── ESL ──┤        ├── 2
*              └── R ───┘
*
* Behavior:
*   f << SRF: Z ≈ R (purely resistive)
*   f ~ SRF:  Parallel resonance of L and Cp; impedance peaks for low R,
*             dips for high R
*   f >> SRF: Cp dominates (capacitive roll-off)
*
* Parameters:
*   RVAL - Resistance value in ohms
*   ESL  - Parasitic series inductance (henries)
*   CP   - Parasitic parallel capacitance (farads)

.SUBCKT R 1 2 PARAMS: RVAL=1k ESL=0.5n CP=0.05p
L_esl 1 mid {ESL}
R1 mid 2 {RVAL}
C_p mid 2 {CP}
.ENDS R
